US04806560
2.1. 3-{4-[Hydroxy(4-fluorophenyl)(2-pyridyl)methyl]-1-piperidyl}propanenitrile
2.3 ml (0.035 mol) of acrylonitrile are added dropwise to a solution of 10 g (0.035 mol) of α-(4-fluorophenyl)-α-(2-pyridyl)-4-piperidinemethanol in 60 ml of ethanol and 1 ml of Triton B.

reactant | acrylonitrile | 0.035 mol, 2.3 ml | C(C=C)#N | C3H3N
reactant | α-(4-fluorophenyl)-α-(2-pyridyl)-4-piperidinemethanol | 0.035 mol, 10 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=NC=CC=C1 | C17H19FN2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-{4-[Hydroxy(4-fluorophenyl)(2-pyridyl)methyl]-1-piperidyl}propanenitrile | OC(C1CCN(CC1)CCC#N)(C1=NC=CC=C1)C1=CC=C(C=C1)F | C20H22FN3O
